### PR TITLE
[Merged by Bors] - feat: `Rat`-dependent `norm_num` functionality

### LINKED ISSUE #1102: `Rat`-dependent `norm_num` functionality
About half of the mathlib3 `norm_num` test file currently doesn't work, including examples like
```lean
example {α} [DivisionRing α] [CharZero α] : (-1:α) ≠ 2 := by norm_num
```
My understanding (cc @digama0 ?) is that the required `norm_num` functionality can only be implemented once the port reaches `Data.Rat.Cast`.  This is a placeholder issue just to record this.

### PR DESCRIPTION
**Pull request by thorimur**
As per #1102, we extend `norm_num` to handle `Rat`s.

We leave most of the theorems sorried, but the evaluation and tests work!

### CODE REVIEW

File: test/norm_num.lean [hunk 1]
```diff
@@ -62,25 +62,22 @@ example : (12321 - 2 : ℤ) = 12319 := by norm_num
...
-example : (210485987642382937847263 : ℕ) ≤ (11048512347462382937847262 : ℕ) := by norm_num
--- example : (210485987642382937847263 : ℚ) ≤ (11048512347462382937847262 : ℚ) := by norm_num
-example : (2 * 12868 + 25705) * 11621 ^ 2 ≤ 23235 ^ 2 * 12868 := by norm_num
+-- example : (1103 : ℤ) ≤ (2102 : ℤ) := by norm_num1
+-- example : (110474 : ℤ) ≤ (210485 : ℤ) := by norm_num1
+-- example : (11047462383473829263 : ℤ) ≤ (21048574677772382462 : ℤ) := by norm_num1
+-- example : (210485742382937847263 : ℤ) ≤ (1104857462382937847262 : ℤ) := by norm_num1
+-- example : (210485987642382937847263 : ℕ) ≤ (11048512347462382937847262 : ℕ) := by norm_num1
+-- example : (210485987642382937847263 : ℚ) ≤ (11048512347462382937847262 : ℚ) := by norm_num1
+-- example : (2 * 12868 + 25705) * 11621 ^ 2 ≤ 23235 ^ 2 * 12868 := by norm_num1
```
Comment (gebner) [inline test/norm_num.lean:71]: Please uncomment.

File: test/norm_num.lean [hunk 2]
```diff
@@ -62,25 +62,22 @@ example : (12321 - 2 : ℤ) = 12319 := by norm_num
...
-
--- example (a : ℚ) (h : 3⁻¹ * a = a) : true :=
--- begin
---   norm_num at h,
---   guard_hyp h : 1 / 3 * a = a,
---   trivial
--- end
+example (a : ℚ) (h : 3⁻¹ * a = a) : true := by
+  norm_num at h;
+  guard_hyp h : 1 / 3 * a = a;
```
Comment (gebner) [inline test/norm_num.lean:79]:
```suggestion
  norm_num at h
  guard_hyp h : 1 / 3 * a = a
```

File: Mathlib/Tactic/NormNum/Basic.lean [hunk 3]
```diff
@@ -228,6 +331,68 @@ def evalPow : NormNumExt where eval {u α} e := do
...
+  let .app (.app f (a : Q($α))) (b : Q($α)) ← withReducible (whnf e) | failure
+  let dα ← inferDivisionRing α
+  guard <|← withNewMCtxDepth <| isDefEq f q(HDiv.hDiv (α := $α))
+  let rab ← derive (q($a * $b⁻¹) : Q($α))
+  let ⟨qa, na, da, pa⟩ := rab.toRat'
+  let pa : Q(IsRat ($a * $b⁻¹) $na $da) := pa
+  return (.isRat' dα qa na da q(isRat_div $pa) : Result q($a / $b))
+
+attribute [nolint defLemma] isRat_add isRat_neg isRat_sub isRat_mul isRat_pow isRat_inv_pos
+  isRat_inv_neg isRat_div -- FIXME: figure out how to get the linter to work with these
```
Comment (gebner) [inline Mathlib/Tactic/NormNum/Basic.lean:398]:
```suggestion
```
Maybe `IsRat` should be in `Prop`, just like `IsInt`.  I don't know if we ever need to extract the inverse of the denominator.

But if `IsRat` needs to stay in `Prop`, then these should all be defs and not theorems.  So either way, the nolint needs to be removed.

File: test/norm_num.lean (hunk 1 above)
Comment (thorimur) [reply test/norm_num.lean:71]: These don't actually work yet as-is, because norm_num doesn't handle `le` by itself (hence `norm_num1` fails). Previously they just read `by norm_num` and were actually being handled by simp, not norm_num. Should they still be uncommented?

Comment (gebner) [reply test/norm_num.lean:71]: Ah, got it!  Then it's fine.

File: Mathlib/Tactic/NormNum/Basic.lean (hunk 3 above)
Comment (thorimur) [reply Mathlib/Tactic/NormNum/Basic.lean]: I tried to change as many to `def` as possible, but `isRat_pow` gives an error like "unsupported `Mathlib.Meta.NormNum.IsNat.casesOn` application during code generation" when changed to def, as do the ones in NormNum.Core. What's the fix for this?

Comment (gebner) [reply Mathlib/Tactic/NormNum/Basic.lean]: The fix is to move `IsRat` into `Prop`.  Nothing seems to break because of that and all the theorems can remain theorems.  (Sorries in defs are a big no-no, this will break mathport.)

```lean
inductive IsRat [Ring α] (a : α) (num : ℤ) (denom : ℕ) : Prop
  | mk (inv : Invertible (denom : α)) (eq : a = num * ⅟(denom : α))
```

**Comment by gebner** [comment]
Since this is blocking a lot, let's merge it with sorries.

bors r+

File: Mathlib/Tactic/NormNum/Basic.lean (hunk 3 above)
Comment (thorimur) [reply Mathlib/Tactic/NormNum/Basic.lean]: I was waiting for the green check to reply but looks like you beat me to it! Great! :)
